US08748612B2
To lithium aluminium hydride (379 mg, 10 mmol) in Et2O (10 mL) was added dropwise a solution of 1-(4-(trifluoromethoxy)phenyl)cyclopentanecarbonitrile (905 mg, 4 mmol) in Et2O (5 mL) at 0° C. The reaction mixture was stirred at room temperature under an atmosphere of nitrogen for 16 h and then quenched with saturated sodium sulfate solution (3 mL) and extracted with Et2O. The organic layer was dried with sodium sulfate and evaporated in vacuo to give (1-(4-(trifluoromethoxy)phenyl)cyclopentyl)methanamine as an oil (810 mg, 77%).

reactant | lithium aluminium hydride | 10 mmol, 379 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(4-(trifluoromethoxy)phenyl)cyclopentanecarbonitrile | 4 mmol, 905 mg | FC(OC1=CC=C(C=C1)C1(CCCC1)C#N)(F)F | C13H12F3NO
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | (1-(4-(trifluoromethoxy)phenyl)cyclopentyl)methanamine | 810 mg, 77% | FC(OC1=CC=C(C=C1)C1(CCCC1)CN)(F)F | C13H16F3NO
